US08614206B2
To a solution of tert-butyl 6-hydroxy-6-methyl-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate (100 mg, 0.28 mmol) in DCM (5 mL) was added deoxo-Fluor® (50% in THF, 0.26 mL, 0.7 mmol) and the mixture was stirred at room temperature for 18 hr. The mixture was diluted with DCM (30 mL), cooled in an ice water bath and quenched by dropwise addition of saturated aqueous NaHCO3 (40 mL). The resulting mixture was stirred for 10 min. The organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. The crude product was purified via silica gel column chromatography (0-50% EtOAc/isohexane) to give tert-butyl 6-fluoro-6-methyl-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate (70 mg, 70%) as a clear colorless oil. 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 3.80 (s, 3H), 3.73-3.32 (m, 6H), 3.26-3.03 (m, 2H), 1.50 (s, 9H), 1.32 (d, J=20.1 Hz, 3H).

reactant | tert-butyl 6-hydroxy-6-methyl-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate | 0.28 mmol, 100 mg | OC1(CN(CCN(C1)C(=O)OC(C)(C)C)C1=C(C=NN1C)[N+](=O)[O-])C | C15H25N5O5
reactant | deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 6-fluoro-6-methyl-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate | 70 mg, 70% | FC1(CN(CCN(C1)C(=O)OC(C)(C)C)C1=C(C=NN1C)[N+](=O)[O-])C | C15H24FN5O4
